US04704459
In 30 ml of methylene chloride was suspended 3.00 g of ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-7-hydroxy-4-oxo-1,8-naphthyridine-3-carboxylate, and 1.02 g of triethylamine and 2.20 g of ortho-nitrobenzenesulfonyl chloride were added thereto with ice-cooling, after which the resulting mixture was subjected to reaction at the same temperature for 30 minutes and then at room temperature for 6 hours. The reaction mixture was washed with three 50-ml portions of water and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and to the residue thus obtained was added a mixture of 6 ml of ethyl acetate and 12 ml of diethyl ether, after which the crystals thus despotied were collected by filtration to obtain 4.40 g (yield 97.2%) of ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-7-(2-nitrobenzenesulfonyloxy)-4-oxo-1,8-naphthyridine-3-carboxylate having a melting point of 157°-160° C.

reactant | ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-7-hydroxy-4-oxo-1,8-naphthyridine-3-carboxylate | 3.00 g | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)O)F)=O)C(=O)OCC | C17H11F3N2O4
reactant | triethylamine | 1.02 g | C(C)N(CC)CC | C6H15N
reactant | ortho-nitrobenzenesulfonyl chloride | 2.20 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 12 ml | C(C)OCC | C4H10O
product | ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-7-(2-nitrobenzenesulfonyloxy)-4-oxo-1,8-naphthyridine-3-carboxylate | 4.40 g, yield 97.2% | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)OS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])F)=O)C(=O)OCC | C23H14F3N3O8S
